US05459152
A solution of 3-(pyridin-3-yl)-7-[1-(2-tert-butoxycarbonylaminoethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole (104 mg), prepared as in Example 57, in CH2Cl2 at 0° C. was treated with 4N HCl/dioxane (1 mL). The reaction mixture was stirred for 15 min at 0° C. and then concentrated in vacuo. The resulting solid was azeotroped three times with CH2Cl2 to give 3-(Pyridin-3-yl)-7-[1-(2-aminoethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (115 mg), 1H NMR (D3COD, 300 MHz) δ3.48-3.60 (m, 3H), 3.64-3.75 (m, 4H), 4.53 (d, 1H, J=15 Hz) 4.68-4.77 (m, 3H), 6.76 (d, 1H, J=3 Hz), 6.9 (d, 1H, J=1.5 Hz), 7.55 (dd, 1H, J=1.5 9 Hz), 7.75 (dd, 2H, J=6, 8 Hz), 7.83 (s, 1H), 8.13 (dd, 1H, J=6, 8 Hz), 8.30 (s, 1H), 8.35 (d, 1H, J=9 Hz), 8.49 (d, 1H, J=9 Hz), 8.87 (d, 2H, J=7 Hz), MS (DCI/NH3) m/e 483 (M+H)+.

reactant | 3-(pyridin-3-yl)-7-[1-(2-tert-butoxycarbonylaminoethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | 104 mg | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CCNC(=O)OC(C)(C)C | C33H31FN4O3S
reactant | HCl dioxane | 4N, 1 mL | Cl.O1CCOCC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(Pyridin-3-yl)-7-[1-(2-aminoethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 115 mg | Cl.N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CCN | InChI=1S/C28H23FN4OS.ClH/c29-21-6-3-18(4-7-21)19-5-8-22-24(16-32(13-10-30)25(22)14-19)27(34)23-9-12-33-26(23)17-35-28(33)20-2-1-11-31-15-20;/h1-9,11-12,14-16,28H,10,13,17,30H2;1H
